US04377580
A mixture of 4-aminoquinazoline (7.27 g) and dimethyl methoxymethylenepropanedioate (9.6 g) in N,N-dimethylformamide (35 ml) was stirred for 2 hours at 150° C. The reaction mixture was cooled to ambient temperature and poured into ice-water to give crystals, which were separated by filtration, washed with water and dried to ambient temperature to give a mixture (13.3 g) of dimethyl [(4-quinazolinylamino)methylene]propanedioate and methyl 4-oxo-4H-pyrimido[1,2-c]quinazoline-3-carboxylate.

reactant | 4-aminoquinazoline | 7.27 g | NC1=NC=NC2=CC=CC=C12 | C8H7N3
reactant | dimethyl methoxymethylenepropanedioate | 9.6 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | dimethyl [(4-quinazolinylamino)methylene]propanedioate | 13.3 g | N1=CN=C(C2=CC=CC=C12)NC=C(C(=O)OC)C(=O)OC | C14H13N3O4
